### PR TITLE
[Merged by Bors] - feat(NumberTheory): p-adic cyclotomic character

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
I have some concerns about this file `Mathlib.NumberTheory.Cyclotomic.CyclotomicCharacter`, maybe not suitable for this PR:

- The existing `ModularCyclotomicCharacter` and your newly added `CyclotomicCharacter` is not a `Type` (just a group homomorphism), so according to the naming convention, the first letter should not be capitalized (unless there are some special exceptions).
- There are theorems named `spec'` and `unique'` which are not in namespaces, which I think is a mistake.

**Comment by erdOne** [comment]
1. Yes. I absolutely agree. But because the existing `ModularCyclotomicCharacter` is in PascalCase, I followed that for now in case there is a reason behind it. I'm hoping @kbuzzard (one of the original authors) can review it and give some insights on this. 

2. I'm not sure which lemmas you are referring to. I think all of them should be in namespaces already but I might have missed some.

**Comment by acmepjz** [comment]
> 2. I'm not sure which lemmas you are referring to. I think all of them should be in namespaces already but I might have missed some.

They are the existing ones: [spec'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.html#spec') and [unique'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.html#unique')

**Comment by erdOne** [comment]
I believe they are already fixed in #21868. The docs are somehow two days old. See [zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/documentation.20is.20two.20weeks.20old)

File: Mathlib/NumberTheory/Padics/RingHoms.lean [hunk 1]
```diff
@@ -669,4 +669,51 @@ theorem toZModPow_eq_iff_ext {R : Type*} [NonAssocSemiring R] {g g' : R →+* 
   · rintro rfl _
     rfl
 
+lemma isCauSeq_padicNorm_of_pow_dvd_sub
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/RingHoms.lean:672]: Here and in the next lemma `p` can be implicit (you already use `_` in the other file).

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 2]
```diff
@@ -82,20 +84,39 @@ theorem rootsOfUnity.integer_power_of_ringEquiv' (g : L ≃+* L) :
...
 -- the only thing we know about `ModularCyclotomicCharacter_aux g n`
-theorem ModularCyclotomicCharacter_aux_spec (g : L ≃+* L) (n : ℕ) [NeZero n] :
-    ∀ t : rootsOfUnity n L, g (t : Lˣ) = (t ^ (ModularCyclotomicCharacter_aux g n) : Lˣ) :=
+theorem ModularCyclotomicCharacter.aux_spec (g : L ≃+* L) (n : ℕ) [NeZero n] :
+    ∀ t : rootsOfUnity n L, g (t : Lˣ) = (t ^ (ModularCyclotomicCharacter.aux g n) : Lˣ) :=
   (rootsOfUnity.integer_power_of_ringEquiv n g).choose_spec
 
+theorem ModularCyclotomicCharacter.pow_dvd_aux_pow_sub_aux_pow
+    (g : L ≃+* L) (p : ℕ) [Fact p.Prime] (H : ∀ i, ∃ ζ : L, IsPrimitiveRoot ζ (p ^ i))
+    (i k : ℕ) (hi : k ≤ i) : (p : ℤ) ^ k ∣ aux g (p ^ i) - aux g (p ^ k) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:97]:
```suggestion
    {i k : ℕ} (hi : k ≤ i) : (p : ℤ) ^ k ∣ aux g (p ^ i) - aux g (p ^ k) := by
```

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 3]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+/-
+
+## The p-adic theory
+
+-/
+
+open ModularCyclotomicCharacter in
+/-- The underlying function of the cyclotomic character. See `CyclotomicCharacter`. -/
+noncomputable def CyclotomicCharacter.toFun (p : ℕ) [Fact p.Prime] (g : L ≃+* L) : ℤ_[p] :=
+  letI := Classical.propDecidable
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:257]:
```suggestion
```
Opening `Classical`. Seems more natural, and it should be the same.

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 4]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+  if H : ∀ (i : ℕ), ∃ ζ : L, IsPrimitiveRoot ζ (p ^ i) then
+    PadicInt.ofIntSeq _ (PadicInt.isCauSeq_padicNorm_of_pow_dvd_sub
+      (aux g <| p ^ ·) _ fun i ↦ pow_dvd_aux_pow_sub_aux_pow g p H _ _ i.le_succ)
+  else 1
+
+namespace CyclotomicCharacter
+
+local notation "χ" => CyclotomicCharacter.toFun
+
+variable (p : ℕ) [Fact p.Prime] (g : L ≃+* L) (H : ∀ i, ∃ ζ : L, IsPrimitiveRoot ζ (p ^ i))
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:267]: Does it make sense to introduce a class for `H` and ignore the cases when it doesn't hold?

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 5]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+    exact continuous_const (y := 1)
+  choose ζ hζ using show _ from H
+  refine Continuous.of_coeHom_comp ?_
+  apply continuous_of_continuousAt_one
+  rw [ContinuousAt, map_one, (galGroupBasis K L).nhds_one_hasBasis.tendsto_iff
+    (Metric.nhds_basis_ball (α := ℤ_[p]) (x := 1))]
+  intro ε hε
+  obtain ⟨k, hk', hk⟩ : ∃ k : ℕ, k ≠ 0 ∧ p ^ (-k : ℤ) < ε := by
+    obtain ⟨k, hk⟩ := PadicInt.exists_pow_neg_lt p hε
+    exact ⟨k + 1, by simp, LE.le.trans_lt (by gcongr <;> simp [‹Fact p.Prime›.1.one_le]) hk⟩
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:333]:
```suggestion
    exact ⟨k + 1, by simp, lt_of_le_of_lt (by gcongr <;> simp [‹Fact p.Prime›.1.one_le]) hk⟩
```
I think we always use this version.

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 6]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+  refine ⟨_, ⟨_, ⟨(K⟮ζ k⟯), adjoin.finiteDimensional ?_, rfl⟩, rfl⟩, ?_⟩
+  · exact ((hζ k).isIntegral (Nat.pos_of_neZero _)).tower_top
+  · intro σ hσ
+    refine LE.le.trans_lt ?_ hk
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:337]: Same.

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 7]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+    show dist (CyclotomicCharacter L p σ.toRingEquiv).1 1 ≤ _
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:338]: Are we missing a lemma here?

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean [hunk 8]
```diff
@@ -223,3 +244,105 @@ lemma IsPrimitiveRoot.autToPow_eq_ModularCyclotomicCharacter (n : ℕ) [NeZero n
...
+    rw [dist_eq_norm, PadicInt.norm_le_pow_iff_mem_span_pow, ← PadicInt.ker_toZModPow,
+      RingHom.mem_ker, map_sub, map_one, CyclotomicCharacter.toZModPow (H := H),
+      sub_eq_zero, eq_comm]
+    apply ModularCyclotomicCharacter.unique
+    intro t ht
+    obtain ⟨i, hi, rfl⟩ := ((hζ k).isUnit_unit (Nat.pos_of_neZero _)).eq_pow_of_mem_rootsOfUnity ht
+    dsimp
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean:345]: Nonterminal `dsimp` (not sure it is a problem).

File: Mathlib/NumberTheory/Padics/RingHoms.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/NumberTheory/Padics/RingHoms.lean:672]: I think they should be explicit because I think these would be used as `have :=` when the result type is unavailable.

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean]: I think the consensus is that they are fine.

File: Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean]: There seems to be a `HasEnoughRootsOfUnity` class. Not sure if I should but I've kept the if-then-else thing for now.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 9]
```diff
@@ -1647,6 +1647,13 @@ def toUnits_homeomorph [Group G] [TopologicalSpace G] [ContinuousInv G] : G ≃
 @[deprecated (since := "2024-10-26")]
 alias Units.embedding_val := Units.isEmbedding_val
 
+lemma Continuous.of_coeHom_comp [Group G] [Monoid H] [TopologicalSpace G] [TopologicalSpace H]
+    [ContinuousInv G] {f : G →* Hˣ} (hf : Continuous ((Units.coeHom H).comp f)) : Continuous f := by
+  apply continuous_induced_rng.mpr ?_
+  refine continuous_prod_mk.mpr ⟨hf, ?_⟩
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1653]:
```suggestion
  refine continuous_prodMk.mpr ⟨hf, ?_⟩
```
The build is failing and this seems to be the problem?

**Comment by kbuzzard** [comment]
> 1. Yes. I absolutely agree. But because the existing `ModularCyclotomicCharacter` is in PascalCase, I followed that for now in case there is a reason behind it. I'm hoping @kbuzzard (one of the original authors) can review it and give some insights on this.

I'm sure it was just a mistake on my part.

**Comment by acmepjz** [comment]
Should merge this again?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
